US07763623B2
Mel (2.23 mL, 35.72 mmol) was added to a suspension of 5-ethyl-2-thioxo-2,3-dihydro-1h-pyrano[2,3-d]pyrimidine-4,7-dione (4.0 g, 17.86 mmol) in DMF (40 mL) at room temperature. The reaction mixture was stirred at room temperature overnight. The reaction mixture was then poured into water (250 mL) and filtered through a sintered funnel. The solid residue was washed with water (2×50 mL) and dried under vacuum to give 5-ethyl-2-methylsulfanyl-3H-pyrano[2,3-d]pyrimidine-4,7-dione (4.1 g, 96%).

reactant | 5-ethyl-2-thioxo-2,3-dihydro-1h-pyrano[2,3-d]pyrimidine-4,7-dione | 17.86 mmol, 4.0 g | C(C)C1=CC(OC=2NC(NC(C21)=O)=S)=O | C9H8N2O3S
reactant | water | 250 mL | O | H2O
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-ethyl-2-methylsulfanyl-3H-pyrano[2,3-d]pyrimidine-4,7-dione | 4.1 g, 96% | C(C)C1=CC(OC=2N=C(NC(C21)=O)SC)=O | C10H10N2O3S
